US09328096B2
5-(5-(6-acetamido-3-fluoropyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide
To a solution of 5-(5-(6-amino-3-fluoropyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide (Preparation 1, 23 mg, 0.05 mmol) in acetic acid (2 mL) was added acetic anhydride (0.5 mL) and the reaction was stirred at room temperature for 18 hours. The reaction was poured into water (50 mL) and basified by the addition of solid potassium carbonate. The aqueous solution was extracted with ethyl acetate (50 mL) and the organic layer was washed with brine (50 mL), dried over magnesium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 40-60% EtOAc in heptanes followed by trituration in TBME to afford the title compound as a white solid (10 mg, 40%).

reactant | 5-(5-(6-amino-3-fluoropyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide | 0.05 mmol, 23 mg | NC1=CC=C(C(=N1)C=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)N)C1)Cl)F | C22H16ClFN6O2
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 50 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 5-(5-(6-acetamido-3-fluoropyridin-2-yl)-2-chlorobenzamido)-1-phenyl-1H-pyrazole-3-carboxamide | 10 mg, 40% | C(C)(=O)NC1=CC=C(C(=N1)C=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C(=O)N)C1)Cl)F | C24H18ClFN6O3
